US08492391B2
2,6-dichloro-9-cyclopropylpurine
2,6-Dichloropurine (1 mmol), triphenylphosphine (1.3 mmol), tetrahydrofurane (5 ml) and cyclopropanol (5 mmol) were stirred at rt under nitrogen to give clear yellowish solution, which was then cooled to 0° C. and diisopropyldiazadicarboxylate (DIAD; 1.3 mmol) was added via syringe. The reaction mixture was then stirred at rt for 12 h. After evaporation of the solvents the product was extracted with diethylether and purified by column chromatography (silicagel, 1% MeOH in CHCl3). Crystallization from methanol gave the product in yield 35%, mp 121-124° C.

reactant | 2,6-Dichloropurine | 1 mmol | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | triphenylphosphine | 1.3 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclopropanol | 5 mmol | C1(CC1)O | C3H6O
reactant | DIAD | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | 2,6-dichloro-9-cyclopropylpurine | yield 35% | ClC1=NC(=C2N=CN(C2=N1)C1CC1)Cl | C8H6Cl2N4
